US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-(methylsulfonyl)propanamide (Compound 363)
To N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-(methylthio)propanamide (0.08 g, 0.25 mmol) in glacial acetic acid (0.85 mL) was added sodium perborate tetrahydrate (0.11 g, 0.52 mmol), and the mixture was heated at 60° C. for 1 hour. The reaction mixture was carefully poured into a separatory funnel containing saturated aqueous NaHCO3 resulting in gas evolution. When the gas evolution had ceased, ethyl acetate was added and the layers were separated. The aqueous layer was extracted twice with ethyl acetate, and all the organic layers were combined, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (0 to 10% methanol/dichloromethane) to give the desired product as a clear oil (0.04, 47%): (thin film) 1661 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.95 (t, J=11.5 Hz, 1H), 8.64 (dd, J=4.8, 1.4 Hz, 1H), 8.17-7.96 (m, 2H), 7.59-7.39 (m, 1H), 3.73 (d, J=7.0 Hz, 2H), 3.44 (dd, J=22.5, 15.7 Hz, 2H), 2.96 (s, 3H), 2.71 (t, J=6.9 Hz, 2H), 1.18 (dd, J=8.8, 5.5 Hz, 3H); ESIMS m/z 357 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-(methylthio)propanamide | 0.25 mmol, 0.08 g | ClC1=NN(C=C1N(C(CCSC)=O)CC)C=1C=NC=CC1 | C14H17ClN4OS
reactant | sodium perborate tetrahydrate | 0.52 mmol, 0.11 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.85 mL | C(C)(=O)O | C2H4O2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-(methylsulfonyl)propanamide | 47% | ClC1=NN(C=C1N(C(CCS(=O)(=O)C)=O)CC)C=1C=NC=CC1 | C14H17ClN4O3S
